US04740453
A small amount of chloroform was added to 50 g of 3,6-dimethoxybenzonorbornene, and the mixture was stirred with cooling by ice water. Chlorosulfonic acid (65 ml) was slowly added to this. After the mixture was reacted at 0° C. for 1 hour, the reaction solution was poured over ice. It was extracted with diethyl ether. The extract solution was dried over anhydrous sodium sulfate and then the diethyl ether was distilled off, giving 4-chlorosulfonyl-3,6-dimethoxybenzonorbornene. Yield: 58%.

reactant | 3,6-dimethoxybenzonorbornene | 50 g | COC1C2C3=C(C1CC2)C=C(C=C3)OC | C13H16O2
reactant | Chlorosulfonic acid | 65 ml | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-chlorosulfonyl-3,6-dimethoxybenzonorbornene | Yield: 58% | ClS(=O)(=O)C1=CC(=CC=2C3CCC(C21)C3OC)OC | C13H15ClO4S
